US04315866
One gram of 9α-chloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione is stirred in 4 ml of "Marlotherm" S for 5 minutes at an oil bath temperature of 300° C. under argon. After cooling, the mixture is diluted with toluene and chromatographed on silica gel, thus obtaining 650 mg of 16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,11,20-trione; mp 201°-202.5° C. (acetone-hexane).

reactant | 9α-chloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione | One gram | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@H](C(COC(C(C)(C)C)=O)=O)[C@]1(C[C@@H]2O)C)C)=O)C | C27H37ClO5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,11,20-trione | 650 mg | C[C@H]1[C@H](C(COC(C(C)(C)C)=O)=O)[C@]2(CC([C@@H]3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)=O)C | C27H36O5
